US06875884B1
To a solution of 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butyronitrile (336 mg, 0.84 mmol) in xylene (5 ml) was added trimethyltin azide (378 mg, 1.84 mmol). The mixture was stirrred at 115° C. for 18 h, and then filtered. The filtrate was concentrated under vacuum to dryness, and the residue was dissolved with 17% THF/CH2Cl2 (2.4 ml). To the solution was added 10 N NAOH solution (107 μl, 1.07 mmol). After srirring at RT for 30 min, triphenylmethyl chloride (297 mg, 1.07 mmol) was added, and the mixture was stirred at RT for 7 h, After adding water, the mixture was extracted with chloroform, washed with brine, dried over sodium sulfate, and filtered. Concentrating under vacuum gave 3-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro 1-naphthyl)amino]-1-[1-(triphenylmethyl)tetrazol-5-yl]propane (125 mg, 22%) which was used in the next step without further purification.

reactant | 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butyronitrile | 0.84 mmol, 336 mg | C1(C=2C(C(N1CCCN(CCCC#N)C1CCCC3=CC=CC=C13)=O)=CC=CC2)=O | C25H27N3O2
reactant | trimethyltin azide | 1.84 mmol, 378 mg | C[Sn](C)(C)N=[N+]=[N-]
reactant | triphenylmethyl chloride | 1.07 mmol, 297 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro 1-naphthyl)amino]-1-[1-(triphenylmethyl)tetrazol-5-yl]propane | 125 mg, 22% | C1(C=2C(C(N1CCCN(CCCC1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCC3=CC=CC=C13)=O)=CC=CC2)=O | C44H42N6O2
